* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : 4_bit_full_adder_x1                          *
* Netlisted  : Mon Dec  1 23:41:38 2025                     *
* PVS Version: 23.11-s036 Wed Jan 17 18:11:41 PST 2024      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(g45n1svt) _nmos1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 1 MP(g45p1svt) _pmos1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_764643294310                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_764643294310 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_764643294310

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_764643294311                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_764643294311 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_764643294311

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M3_M2_CDNS_764643294312                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M3_M2_CDNS_764643294312 1
** N=1 EP=1 FDC=0
.ends M3_M2_CDNS_764643294312

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M4_M3_CDNS_764643294313                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M4_M3_CDNS_764643294313 1
** N=1 EP=1 FDC=0
.ends M4_M3_CDNS_764643294313

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M5_M4_CDNS_764643294314                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M5_M4_CDNS_764643294314 1
** N=1 EP=1 FDC=0
.ends M5_M4_CDNS_764643294314

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M3_M2_CDNS_764643294315                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M3_M2_CDNS_764643294315 1
** N=1 EP=1 FDC=0
.ends M3_M2_CDNS_764643294315

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M4_M3_CDNS_764643294316                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M4_M3_CDNS_764643294316 1
** N=1 EP=1 FDC=0
.ends M4_M3_CDNS_764643294316

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_764643294317                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_764643294317 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_764643294317

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_764643294318                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_764643294318 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_764643294318

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PSUB_CDNS_764643294319                       *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PSUB_CDNS_764643294319 1
** N=1 EP=1 FDC=0
.ends M1_PSUB_CDNS_764643294319

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_NWELL_CDNS_7646432943110                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_NWELL_CDNS_7646432943110 1 2
** N=2 EP=2 FDC=0
.ends M1_NWELL_CDNS_7646432943110

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_764643294310                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_764643294310 1 2 3 4
** N=4 EP=4 FDC=1
M0 2 3 1 4 g45n1svt L=4.5e-08 W=1.2e-07 AD=1.68e-14 AS=1.68e-14 PD=5.2e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=1.4e-07 sca=4.74923 scb=0.000663449 scc=4.92991e-07 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_764643294310

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_764643294311                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_764643294311 1 2 3 4 5
*.DEVICECLIMB
** N=5 EP=5 FDC=0
.ends pmos1v_CDNS_764643294311

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nand_x1                                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nand_x1 B A gnd! vdd! S 6
*.DEVICECLIMB
** N=6 EP=6 FDC=2
X0 B M1_PO_CDNS_764643294317 $T=510 1570 0 90 $X=390 $Y=1470
X1 A M1_PO_CDNS_764643294317 $T=510 2050 0 90 $X=390 $Y=1950
X2 B M1_PO_CDNS_764643294317 $T=1570 1590 0 90 $X=1450 $Y=1490
X3 B M1_PO_CDNS_764643294317 $T=1570 2240 0 90 $X=1450 $Y=2140
X4 B M2_M1_CDNS_764643294318 $T=520 1570 0 90 $X=390 $Y=1490
X5 A M2_M1_CDNS_764643294318 $T=520 2050 0 90 $X=390 $Y=1970
X6 S M2_M1_CDNS_764643294318 $T=2820 1930 0 0 $X=2740 $Y=1800
X7 gnd! M1_PSUB_CDNS_764643294319 $T=1480 330 0 90 $X=620 $Y=190
X8 vdd! gnd! M1_NWELL_CDNS_7646432943110 $T=1600 3690 0 90 $X=880 $Y=3390
X9 gnd! 6 B gnd! nmos1v_CDNS_764643294310 $T=860 940 0 0 $X=440 $Y=740
X10 6 S A gnd! nmos1v_CDNS_764643294310 $T=2260 940 0 0 $X=1840 $Y=740
X11 vdd! S A gnd! vdd! pmos1v_CDNS_764643294311 $T=860 2790 0 0 $X=440 $Y=2590
X12 S vdd! B gnd! vdd! pmos1v_CDNS_764643294311 $T=2260 2790 0 0 $X=1840 $Y=2590
.ends nand_x1

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: 1_bit_full_adder_x1                             *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt 1_bit_full_adder_x1 A B gnd! vdd! CarryIn CarryOut S 8 9 10
+ 11 12 13 14
** N=23 EP=14 FDC=36
X0 A M3_M2_CDNS_764643294315 $T=520 2070 0 0 $X=300 $Y=1940
X1 8 M3_M2_CDNS_764643294315 $T=5210 1590 0 0 $X=4990 $Y=1460
X2 9 M3_M2_CDNS_764643294315 $T=9290 2380 0 0 $X=9070 $Y=2250
X3 10 M3_M2_CDNS_764643294315 $T=9630 1060 0 0 $X=9410 $Y=930
X4 8 M3_M2_CDNS_764643294315 $T=10150 1580 0 0 $X=9930 $Y=1450
X5 A M3_M2_CDNS_764643294315 $T=10150 2030 0 0 $X=9930 $Y=1900
X6 9 M3_M2_CDNS_764643294315 $T=10830 2380 0 0 $X=10610 $Y=2250
X7 10 M3_M2_CDNS_764643294315 $T=13360 2070 0 0 $X=13140 $Y=1940
X8 11 M3_M2_CDNS_764643294315 $T=19240 1130 0 0 $X=19020 $Y=1000
X9 8 M3_M2_CDNS_764643294315 $T=19790 1610 0 0 $X=19570 $Y=1480
X10 10 M3_M2_CDNS_764643294315 $T=22970 2070 0 0 $X=22750 $Y=1940
X11 11 M3_M2_CDNS_764643294315 $T=26200 1610 0 0 $X=25980 $Y=1480
X12 10 M4_M3_CDNS_764643294316 $T=9630 1060 0 0 $X=9410 $Y=930
X13 10 M4_M3_CDNS_764643294316 $T=13360 2070 0 0 $X=13140 $Y=1940
X14 11 M4_M3_CDNS_764643294316 $T=19240 1130 0 0 $X=19020 $Y=1000
X15 10 M4_M3_CDNS_764643294316 $T=22970 2070 0 0 $X=22750 $Y=1940
X16 11 M4_M3_CDNS_764643294316 $T=26200 1610 0 0 $X=25980 $Y=1480
X17 B A gnd! vdd! 8 15 nand_x1 $T=0 0 0 0 $X=0 $Y=0
X18 B 8 gnd! vdd! 12 16 nand_x1 $T=3210 0 0 0 $X=3210 $Y=0
X19 12 9 gnd! vdd! 10 17 nand_x1 $T=6420 0 0 0 $X=6420 $Y=0
X20 8 A gnd! vdd! 9 18 nand_x1 $T=9630 0 0 0 $X=9630 $Y=0
X21 CarryIn 10 gnd! vdd! 13 19 nand_x1 $T=12840 0 0 0 $X=12840 $Y=0
X22 CarryIn 13 gnd! vdd! 11 20 nand_x1 $T=16050 0 0 0 $X=16050 $Y=0
X23 8 13 gnd! vdd! CarryOut 21 nand_x1 $T=19260 0 0 0 $X=19260 $Y=0
X24 13 10 gnd! vdd! 14 22 nand_x1 $T=22470 0 0 0 $X=22470 $Y=0
X25 11 14 gnd! vdd! S 23 nand_x1 $T=25680 0 0 0 $X=25680 $Y=0
M0 8 A vdd! vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=30.5075 scb=0.0298234 scc=0.00339941 $X=860 $Y=2790 $dt=1
M1 vdd! B 8 vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=26.5685 scb=0.0249349 scc=0.00334489 $X=2260 $Y=2790 $dt=1
M2 12 8 vdd! vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=26.5685 scb=0.0249349 scc=0.00334489 $X=4070 $Y=2790 $dt=1
M3 vdd! B 12 vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=26.5685 scb=0.0249349 scc=0.00334489 $X=5470 $Y=2790 $dt=1
M4 10 9 vdd! vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=26.5685 scb=0.0249349 scc=0.00334489 $X=7280 $Y=2790 $dt=1
M5 vdd! 12 10 vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=26.5685 scb=0.0249349 scc=0.00334489 $X=8680 $Y=2790 $dt=1
M6 9 A vdd! vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=26.5685 scb=0.0249349 scc=0.00334489 $X=10490 $Y=2790 $dt=1
M7 vdd! 8 9 vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=26.5685 scb=0.0249349 scc=0.00334489 $X=11890 $Y=2790 $dt=1
M8 13 10 vdd! vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=26.5685 scb=0.0249349 scc=0.00334489 $X=13700 $Y=2790 $dt=1
M9 vdd! CarryIn 13 vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=26.5685 scb=0.0249349 scc=0.00334489 $X=15100 $Y=2790 $dt=1
M10 11 13 vdd! vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=26.5685 scb=0.0249349 scc=0.00334489 $X=16910 $Y=2790 $dt=1
M11 vdd! CarryIn 11 vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=26.5685 scb=0.0249349 scc=0.00334489 $X=18310 $Y=2790 $dt=1
M12 CarryOut 13 vdd! vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=26.5685 scb=0.0249349 scc=0.00334489 $X=20120 $Y=2790 $dt=1
M13 vdd! 8 CarryOut vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=26.5685 scb=0.0249349 scc=0.00334489 $X=21520 $Y=2790 $dt=1
M14 14 10 vdd! vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=26.5685 scb=0.0249349 scc=0.00334489 $X=23330 $Y=2790 $dt=1
M15 vdd! 13 14 vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=26.5685 scb=0.0249349 scc=0.00334489 $X=24730 $Y=2790 $dt=1
M16 S 14 vdd! vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=26.5685 scb=0.0249349 scc=0.00334489 $X=26540 $Y=2790 $dt=1
M17 vdd! 11 S vdd! g45p1svt L=4.5e-08 W=1.45e-07 AD=2.03e-14 AS=2.03e-14 PD=5.7e-07 PS=5.7e-07 fw=1.45e-07 sa=1.4e-07 sb=1.4e-07 sca=30.5075 scb=0.0298234 scc=0.00339941 $X=27940 $Y=2790 $dt=1
.ends 1_bit_full_adder_x1

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: 4_bit_full_adder_x1                             *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt 4_bit_full_adder_x1 A0 A1 A2 A3 B0 B1 B2 B3 CarryIn CarryOut
+ S0 S1 S2 S3 gnd! vdd!
** N=83 EP=16 FDC=144
X0 vdd! M2_M1_CDNS_764643294310 $T=3290 6950 0 90 $X=3160 $Y=6730
X1 vdd! M2_M1_CDNS_764643294310 $T=3290 9010 0 90 $X=3160 $Y=8790
X2 gnd! M2_M1_CDNS_764643294311 $T=25660 270 0 90 $X=25360 $Y=50
X3 gnd! M2_M1_CDNS_764643294311 $T=25660 8000 0 90 $X=25360 $Y=7780
X4 gnd! M2_M1_CDNS_764643294311 $T=25660 15740 0 90 $X=25360 $Y=15520
X5 gnd! M3_M2_CDNS_764643294312 $T=25660 270 0 90 $X=25360 $Y=50
X6 gnd! M3_M2_CDNS_764643294312 $T=25660 8000 0 90 $X=25360 $Y=7780
X7 gnd! M3_M2_CDNS_764643294312 $T=25660 15740 0 90 $X=25360 $Y=15520
X8 gnd! M4_M3_CDNS_764643294313 $T=25660 270 0 90 $X=25360 $Y=50
X9 gnd! M4_M3_CDNS_764643294313 $T=25660 8000 0 90 $X=25360 $Y=7780
X10 gnd! M4_M3_CDNS_764643294313 $T=25660 15740 0 90 $X=25360 $Y=15520
X11 gnd! M5_M4_CDNS_764643294314 $T=25660 270 0 90 $X=25360 $Y=50
X12 gnd! M5_M4_CDNS_764643294314 $T=25660 8000 0 90 $X=25360 $Y=7780
X13 gnd! M5_M4_CDNS_764643294314 $T=25660 15740 0 90 $X=25360 $Y=15520
X14 A0 B0 gnd! vdd! CarryIn 6 S0 20 22 23
+ 25 21 24 26 1_bit_full_adder_x1 $T=0 0 0 0 $X=0 $Y=0
X15 A1 B1 gnd! vdd! 6 10 S1 27 29 30
+ 32 28 31 33 1_bit_full_adder_x1 $T=0 8000 1 0 $X=0 $Y=4000
X16 A2 B2 gnd! vdd! 10 14 S2 34 36 37
+ 39 35 38 40 1_bit_full_adder_x1 $T=0 8000 0 0 $X=0 $Y=8000
X17 A3 B3 gnd! vdd! 14 CarryOut S3 41 43 44
+ 46 42 45 47 1_bit_full_adder_x1 $T=0 16000 1 0 $X=0 $Y=12000
.ends 4_bit_full_adder_x1
